US06583155B2
To a solution of 2-[3-(4-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-pyrazine (200 mg, 0.69 mmol) and epichlorohydrin (0.540 mL, 6.9 mmol) in DMF (2 mL) was added cesium carbonate (450 mg, 1.38 mmol). The reaction mixture was allowed to stir for 24 h, diluted with EtOAc, and washed with saturated NaHCO3, water, and brine. The organic layer was dried over Na2SO4, concentrated and purified by column chromatography (silica, 5% acetone/CH2Cl2) to afford 2-[1-oxiranylmethyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-pyrazine (141 mg, 59%). TLC (silica, 20% acetone/CH2Cl2): Rf=0.38. MS (electrospray) m/z 347.1 (347.1, calculated for C17H13F3N4O, M++H). 1H NMR (400 MHz, CDCl3): 8.51 (dd, J=2.8,1.8 Hz, 1H), 8.45 (d, J=1.5 Hz, 1H), 8.38 (d, J=12.8 Hz, 1H), 8.01 (s, 1H), 7.66 (d, J=8.6 Hz, 1H), 7.62 (d, J=8.6 Hz, 1H), 4.57 (dd, J=14.7, 3.1 Hz, 1H), 4.21 (dd, J=14.7, 6.1 Hz, 1H), 3.44 (m, 1H), 2.91 (t, J=4.5 Hz, 1H), 2.62 (dd, J=4.0, 2.5 Hz, 1H).

reactant | 2-[3-(4-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-pyrazine | 0.69 mmol, 200 mg | FC(C1=CC=C(C=C1)C1=NNC=C1C1=NC=CN=C1)(F)F | C14H9F3N4
reactant | epichlorohydrin | 6.9 mmol, 0.540 mL | C(Cl)C1CO1 | C3H5ClO
reactant | cesium carbonate | 1.38 mmol, 450 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[1-oxiranylmethyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-pyrazine | 141 mg, 59% | O1C(C1)CN1N=C(C(=C1)C1=NC=CN=C1)C1=CC=C(C=C1)C(F)(F)F | C17H13F3N4O
